US08957070B2
(2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)acetic acid
A mixture of ethyl (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)acetate (0.31 g), 1N aqueous sodium hydroxide solution (2.0 mL), tetrahydrofuran (6 mL) and methanol (6 mL) was stirred at 50° C. for 2 hr. To the reaction mixture was added 10% citric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained residue was subjected to silica gel column chromatography and the title compound (0.18 g, yield 63%) was obtained as pale-yellow crystals from a fraction eluted with tetrahydrofuran-hexane (2:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point 214-215° C.

reactant | ethyl (2-{7-[methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)acetate | 0.31 g | CN(C=1C=CC=C2C=C(NC12)C=1SC=C(N1)CC(=O)OCC)S(=O)(=O)C=1SC=CC1 | C20H19N3O4S3
reactant | sodium hydroxide | 1N, 2.0 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 6 mL | CO | CH4O
product | (2-{7-[Methyl(2-thienylsulfonyl)amino]-1H-indol-2-yl}-1,3-thiazol-4-yl)acetic acid | 0.18 g, yield 63% | CN(C=1C=CC=C2C=C(NC12)C=1SC=C(N1)CC(=O)O)S(=O)(=O)C=1SC=CC1 | C18H15N3O4S3
